US07960567B2
Methyl 2-(3-chloro-4-(6-(2,4-dichlorophenylsulfonamido)-2-methyl-3H-benzo[d]imidazol-5-yloxy)phenyl)acetate (21.6).
Under an N2 atmosphere, methyl 2-(3-chloro-4-(6-(2,4-dichlorophenylsulfonamido)-2-methyl-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)phenyl)acetate (0.245 g, 0.358 mmol) was dissolved in dichloromethane (4.0 mL). Trifluoroacetic acid (2.5 mL) was added and the reaction was allowed to stir overnight at room temperature. The reaction was diluted with ethyl acetate and saturated NaHCO3 (aq). The layers were separated and the organic layer was dried (Na2SO4), filtered and concentrated in vacuo. Flash column chromatography of the residue, eluting 0% to 7% methanol in dichloromethane, afforded the title compound. LC-MS ESI (pos.) m/z: 555.8 (M+H).

reactant | methyl 2-(3-chloro-4-(6-(2,4-dichlorophenylsulfonamido)-2-methyl-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)phenyl)acetate | 0.358 mmol, 0.245 g | ClC=1C=C(C=CC1OC1=CC2=C(N=C(N2COCC[Si](C)(C)C)C)C=C1NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)CC(=O)OC | C29H32Cl3N3O6SSi
reactant | Trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Methyl 2-(3-chloro-4-(6-(2,4-dichlorophenylsulfonamido)-2-methyl-3H-benzo[d]imidazol-5-yloxy)phenyl)acetate | ClC=1C=C(C=CC1OC1=CC2=C(N=C(N2)C)C=C1NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)CC(=O)OC | C23H18Cl3N3O5S
